US08236792B2
(2R,4R)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-hydroxy-pyrrolidine-1-carboxylic Acid Benzyl Ester
A solution of cis-D-hydroxyproline (221.1 mg, 1.687 mmol) in CH2Cl2 (15 mL) was treated with diisopropylethylamine (0.60 mL) and chlorotrimethylsilane (0.60 mL). The mixture was stirred for 2 hours, cooled to 0° C. and treated with benzyl chloroformate (0.250 mL). The reaction was stirred for 15 h at rt and then extracted with 1 N NaOH/Et2O. The aqueous layer was acidified with 1 N HCl and extracted with EtOAc. The organic layer was dried and concentrated to give 4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester (0.270 g), which was used directly in the next step. A solution of 4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester (0.2377 g) in acetonitrile (20 mL) was treated with cyclobutyl-[1,4]diazepane dihydrochloride (0.2411 g), triethylamine (0.400 mL), and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.4780 g). After 3 h, the reaction mixture was extracted with 1 N NaOH/CH2Cl2, and the organic layer was dried and concentrated. Purification by FCC provided the desired product (0.1628 g, 24% over two steps). MS (ESI): mass calcd. for C22H31N3O4, 401.50; m/z found, 402.3 [M+H]+.

reactant | 4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester | 0.2377 g | C(C1=CC=CC=C1)OC(=O)N1C(CC(C1)O)C(=O)O | C13H15NO5
reactant | cyclobutyl-[1,4]diazepane dihydrochloride | 0.2411 g | Cl.Cl.C1(CCC1)N1CCNCCC1
reactant | triethylamine | 0.400 mL | C(C)N(CC)CC | C6H15N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.4780 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (2R,4R)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-hydroxy-pyrrolidine-1-carboxylic Acid Benzyl Ester | 0.1628 g, 24% | C(C1=CC=CC=C1)OC(=O)N1[C@H](C[C@H](C1)O)C(=O)N1CCN(CCC1)C1CCC1 | C22H31N3O4
